US06590118B1
4-(2-Aminophenoxy)phthalonitrile (0.54 g, 2.3 mmol) was stirred in acetic acid anhydride (20 ml) at room temperature for 1 hour. The reaction mixture was poured into crushed ice. The precipitate was filtered off and washed with water and dried in vacuo to give N-[2-(3,4-dicyanophenoxy)phenyl]acetamide as white crystals (yield: 0.57 g, (89%)). Mp: 152.2-153.7° C.

reactant | 4-(2-Aminophenoxy)phthalonitrile | 2.3 mmol, 0.54 g | NC1=C(OC=2C=C(C(C#N)=CC2)C#N)C=CC=C1 | C14H9N3O
reactant | acetic acid anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(3,4-dicyanophenoxy)phenyl]acetamide | C(#N)C=1C=C(OC2=C(C=CC=C2)NC(C)=O)C=CC1C#N | C16H11N3O2
